US04442102
19.2 g of 1,5-diphenyl-2-[3-(4-formylpiperazin-1-yl)-propyl]-pyrazolin-3-one are dissolved in 200 ml of a mixture of ethanol and 20% strength hydrochloric acid (1:1). The solution is left to stand at room temperature for 12 hours and is then heated under reflux for another 2 hours, and the ethanol is then distilled off in vacuo. Toluene and dilute sodium hydroxide solution are added to the residue. The toluene phase is separated off, washed with water, dried over sodium sulphate and evaporated in vacuo. 1,5-Diphenyl-2-[3-(piperazin-1-yl)-propyl]-pyrazolin-3-one is obtained as the residue.

reactant | 1,5-diphenyl-2-[3-(4-formylpiperazin-1-yl)-propyl]-pyrazolin-3-one | 19.2 g | C1(=CC=CC=C1)N1N(C(CC1C1=CC=CC=C1)=O)CCCN1CCN(CC1)C=O | C23H28N4O2
solvent | ethanol | C(C)O | C2H6O
solvent | hydrochloric acid | Cl | ClH
product | 1,5-Diphenyl-2-[3-(piperazin-1-yl)-propyl]-pyrazolin-3-one | C1(=CC=CC=C1)N1N(C(CC1C1=CC=CC=C1)=O)CCCN1CCNCC1 | C22H28N4O
